### PR TITLE
[Merged by Bors] - feat(Data/Matroid): matroid deletion/contraction

### PR DESCRIPTION
**Pull request by apnelson1**
We define deletions and contractions of sets in matroids. 

We provide basic API for deletion, and its interaction with most of the existing matroid notions in mathlib. 
The API for contraction is more complicated, so to limit size of this first PR, we just give the definition and the fact that it is dual to deletion. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matroid/Minor/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,289 @@
...
+lemma delete_isBasis'_iff : (M ＼ D).IsBasis' I X ↔ M.IsBasis' I (X \ D) := by
+  rw [isBasis'_iff_isBasis_inter_ground, delete_isBasis_iff, delete_ground, diff_eq, inter_comm M.E,
+    ← inter_assoc, ← diff_eq, ← isBasis'_iff_isBasis_inter_ground, and_iff_left_iff_imp,
+    inter_comm, ← inter_diff_assoc]
+  exact fun _ ↦ disjoint_sdiff_left
+
+lemma IsBasis.of_delete (h : (M ＼ D).IsBasis I X) : M.IsBasis I X :=
+  (delete_isBasis_iff.mp h).1
+
+lemma IsBasis.to_delete (h : M.IsBasis I X) (hX : Disjoint X D) : (M ＼ D).IsBasis I X := by
```
Comment (kmill) [inline Mathlib/Data/Matroid/Minor/Basic.lean:169]: I think this would be the naming convention:
```suggestion
lemma IsBasis.delete (h : M.IsBasis I X) (hX : Disjoint X D) : (M ＼ D).IsBasis I X := by
```

File: Mathlib/Data/Matroid/Minor/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,289 @@
...
+@[simp]
+lemma delete_loops_eq (M : Matroid α) (D : Set α) : (M ＼ D).loops = M.loops \ D := by
+  simp [loops]
+
+@[simp]
+lemma delete_empty (M : Matroid α) : M ＼ ∅ = M := by
+  rw [delete_eq_self_iff]
+  exact empty_disjoint _
+
+lemma delete_delete_diff (M : Matroid α) (D₁ D₂ : Set α) : M ＼ D₁ ＼ D₂ = M ＼ D₁ ＼ (D₂ \ D₁) :=
```
Comment (kmill) [inline Mathlib/Data/Matroid/Minor/Basic.lean:218]: Maybe `delete_delete_eq_delete_diff`?

File: Mathlib/Data/Matroid/Minor/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,289 @@
...
+(Currently the proof it has the correct independent sets is TODO. ) -/
+def contract (M : Matroid α) (C : Set α) : Matroid α := (M✶ ＼ C)✶
+
+/-- `M ／ C` refers to the contraction of a set `C` from the matroid `M`. -/
+infixl:75 " ／ " => Matroid.contract
+
+lemma dual_delete_dual (M : Matroid α) (X : Set α) : (M✶ ＼ X)✶ = M ／ X := rfl
+
+@[simp]
+lemma delete_dual (M : Matroid α) (X : Set α) : (M ＼ X)✶ = M✶ ／ X := by
```
Comment (kmill) [inline Mathlib/Data/Matroid/Minor/Basic.lean:264]: I think the naming convention here would say `dual_delete`, similarly for others.
